US07109229B2
(a) Methyl 2-(5-methyl-1H-indol-3-yl)oxoacetate
To a solution of 5-methyl-1H-indole (1.00 g, 7.6 mmol) in diethyl ether (10 mL) at 4° C. was added a 2.0 M solution of oxalyl chloride in methylene chloride (4.0 mL, 8.0 mmol). The resulting solution was allowed to warm to room temperature and stirred for 1.5 h. The solution was cooled to −78° C. To this solution was added 25% (w/w) solution of sodium methoxide in methanol (3.65 mL, 16.0 mmol). The resulting solution was allowed to warm to room temperature. After one hour, the solution was filtered to give the title compound (1.16 g, 70%) as a light brown solid. 1H NMR (DMSO-d6) δ 8.31 (m, 1H), 7.95 (s, 1H), 7.42 (m, 1H), 7.11 (m, 1H), 3.88 (s, 3H), 2.41 (s, 3H).

reactant | 5-methyl-1H-indole | 7.6 mmol, 1.00 g | CC=1C=C2C=CNC2=CC1 | C9H9N
reactant | oxalyl chloride | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | methylene chloride | 8.0 mmol, 4.0 mL | C(Cl)Cl | CH2Cl2
reactant | sodium methoxide | C[O-].[Na+]
reactant | methanol | 16.0 mmol, 3.65 mL | CO | CH4O
solvent | diethyl ether | 10 mL | C(C)OCC | C4H10O
product | Methyl 2-(5-methyl-1H-indol-3-yl)oxoacetate | 1.16 g, 70% | CC=1C=C2C(=CNC2=CC1)C(C(=O)OC)=O | C12H11NO3
